### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/Intertwining): a central element of the MonoidAlgebra acts on a representation as self-intertwining map

### PR DESCRIPTION
**Pull request by Yu-Misaka**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/Intertwining.lean [hunk 1]
```diff
@@ -586,12 +586,27 @@ theorem isIntertwiningMap_of_mem_center (g : G) (hg : g ∈ Submonoid.center G)
...
+
 /-- If `g` is a central element of a monoid `G`, then this is the action of `g`, considered as an
   intertwining map from any representation of `G` to itself. -/
 def centralMul (g : G) (hg : g ∈ Submonoid.center G) : IntertwiningMap ρ ρ where
   toLinearMap := ρ g
   isIntertwining' x := LinearMap.ext <| (isIntertwiningMap_of_mem_center ρ g hg).isIntertwining x
 
+/-- If `z` is a central element of the monoid algebra `A[G]`, then this is the action of `z`,
+  considered as an intertwining map from any representation of `G` to itself. -/
+noncomputable def centralAlgebraMul (z : A[G]) (hz : z ∈ Submonoid.center A[G]) :
```
Comment (riccardobrasca) [inline Mathlib/RepresentationTheory/Intertwining.lean]: Can you add some basic API to this def?

Comment (Yu-Misaka) [reply Mathlib/RepresentationTheory/Intertwining.lean]: Sure! Do you have any specific recommendations? What I have in mind are:
```lean
@[simp]
lemma toLinearMap_centralAlgebraMul (z : A[G]) (hz : z ∈ Submonoid.center A[G]) :
    (centralAlgebraMul ρ z hz).toLinearMap = ρ.asAlgebraHom z := rfl

@[simp]
lemma centralAlgebraMul_apply (z : A[G]) (hz : z ∈ Submonoid.center A[G]) (v : V) :
    centralAlgebraMul ρ z hz v = ρ.asAlgebraHom z v := rfl

-- Maybe also bundled version for this (after we have that API for MonoidAlgebra)?
lemma isIntertwiningMap_of_mem_center_of (g : G) (hg : g ∈ Submonoid.center G) :
    IsIntertwiningMap ρ ρ (ρ.asAlgebraHom (MonoidAlgebra.of A G g)) := by
  refine isIntertwiningMap_of_mem_center_algebra ρ (MonoidAlgebra.of A G g) ?_
  -- Should this be extracted as an API for MonoidAlgebra? It states that `of g` is
  -- a center for `A[G]` when `g` is a center for `G`
  refine Submonoid.mem_center_iff.mpr ?_
  intro x
  simp [MonoidAlgebra.mul_def, Submonoid.mem_center_iff.1 hg]
```

Comment (riccardobrasca) [reply Mathlib/RepresentationTheory/Intertwining.lean]: Can the `apply` version be generated by `simps`?

Comment (Yu-Misaka) [reply Mathlib/RepresentationTheory/Intertwining.lean]: It seems to be complaining `The definition Representation.IntertwiningMap.centralAlgebraMul_toFun is not a constructor application.`

File: Mathlib/RepresentationTheory/Intertwining.lean [hunk 2]
```diff
@@ -586,12 +586,27 @@ theorem isIntertwiningMap_of_mem_center (g : G) (hg : g ∈ Submonoid.center G)
   rw [Submonoid.mem_center_iff] at hg
   rw [← Module.End.mul_apply, ← Module.End.mul_apply, ← ρ.map_mul, ← hg g', ρ.map_mul]
 
+theorem isIntertwiningMap_of_mem_center_algebra (z : A[G]) (hz : z ∈ Submonoid.center A[G]) :
+    IsIntertwiningMap ρ ρ (ρ.asAlgebraHom z) := by
+  rw [isIntertwiningMap_iff]
+  intros
+  rw [← Module.End.mul_apply, ← Module.End.mul_apply, ← asAlgebraHom_of, ← map_mul,
+    ← Submonoid.mem_center_iff.1 hz, map_mul, asAlgebraHom_of]
```
Comment (Whysoserioushah) [inline Mathlib/RepresentationTheory/Intertwining.lean]:
```suggestion
theorem isIntertwiningMap_of_mem_center_algebra (z : A[G]) (hz : z ∈ Submonoid.center A[G]) :
    IsIntertwiningMap ρ ρ (ρ.asAlgebraHom z) := isIntertwiningMap_iff _ _ _|>.2 fun _ _ ↦ by 
  simp_rw [← Module.End.mul_apply, ← asAlgebraHom_of, ← map_mul, Submonoid.mem_center_iff.1 hz]  
```

File: Mathlib/RepresentationTheory/Intertwining.lean [hunk 3]
```diff
@@ -586,12 +586,27 @@ theorem isIntertwiningMap_of_mem_center (g : G) (hg : g ∈ Submonoid.center G)
...
   toLinearMap := ρ g
   isIntertwining' x := LinearMap.ext <| (isIntertwiningMap_of_mem_center ρ g hg).isIntertwining x
 
+/-- If `z` is a central element of the monoid algebra `A[G]`, then this is the action of `z`,
+  considered as an intertwining map from any representation of `G` to itself. -/
+noncomputable def centralAlgebraMul (z : A[G]) (hz : z ∈ Submonoid.center A[G]) :
+    ρ.IntertwiningMap ρ where
+  toLinearMap := ρ.asAlgebraHom z
+  isIntertwining' x := LinearMap.ext <|
+    (isIntertwiningMap_of_mem_center_algebra ρ z hz).isIntertwining x
```
Comment (Whysoserioushah) [inline Mathlib/RepresentationTheory/Intertwining.lean]:
```suggestion
noncomputable def centralAlgebraMul (z : A[G]) (hz : z ∈ Submonoid.center A[G]) :
    ρ.IntertwiningMap ρ where
  toLinearMap := ρ.asAlgebraHom z
  isIntertwining' x := by simp_rw [← ρ.asAlgebraHom_of, ← Module.End.mul_eq_comp, 
      ← map_mul, Submonoid.mem_center_iff.1 hz]
```
I don't think the lemma above is needed as it's specialized to center elements and how short the golfed proof is.

File: Mathlib/RepresentationTheory/Intertwining.lean (hunk 2 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Intertwining.lean]: probly just delete this lemma, see my comments below

File: Mathlib/RepresentationTheory/Intertwining.lean (hunk 3 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Intertwining.lean]: also you should probably add the following (with a better name):
```
noncomputable def blah : Submonoid.center A[G] →* ρ.IntertwiningMap ρ where
  toFun z := centralAlgebraMul _ z.1 z.2
  map_one' := by ext; simp [centralAlgebraMul]
  map_mul' _ _ := by ext; simp [centralAlgebraMul]
```
Also don't unfole `centralAlgebraMul` as I did, you should probably add lemmas like `centralAlgebraMul_one` and `centralAlgebraMul_mul`

File: Mathlib/RepresentationTheory/Intertwining.lean (hunk 2 above)
Comment (Yu-Misaka) [reply Mathlib/RepresentationTheory/Intertwining.lean]: Thanks! Deleted.

File: Mathlib/RepresentationTheory/Intertwining.lean (hunk 3 above)
Comment (Yu-Misaka) [reply Mathlib/RepresentationTheory/Intertwining.lean]: Good idea! I'll implement it. (I added `centralAlgebraMul_apply` to avoid unfolding `centralAlgebraMul`)

File: Mathlib/RepresentationTheory/Intertwining.lean [hunk 4]
```diff
@@ -592,6 +592,21 @@ def centralMul (g : G) (hg : g ∈ Submonoid.center G) : IntertwiningMap ρ ρ w
   toLinearMap := ρ g
   isIntertwining' x := LinearMap.ext <| (isIntertwiningMap_of_mem_center ρ g hg).isIntertwining x
 
+noncomputable def centralAlgebraMul (z : A[G]) (hz : z ∈ Submonoid.center A[G]) :
```
Comment (Yu-Misaka) [inline Mathlib/RepresentationTheory/Intertwining.lean]: I'm not sure if this `z` should be implicit. I was trying to make the new API align with existing `centralMul`, but I think making it implicit might be better?

File: Mathlib/RepresentationTheory/Intertwining.lean [hunk 5]
```diff
@@ -592,6 +592,21 @@ def centralMul (g : G) (hg : g ∈ Submonoid.center G) : IntertwiningMap ρ ρ w
...
+    ρ.IntertwiningMap ρ where
+  toLinearMap := ρ.asAlgebraHom z
+  isIntertwining' _ := by simp_rw [← ρ.asAlgebraHom_of, ← Module.End.mul_eq_comp,
+    ← map_mul, Submonoid.mem_center_iff.1 hz]
+
+@[simp]
+lemma centralAlgebraMul_apply {z : A[G]} (hz : z ∈ Submonoid.center A[G]) (v : V) :
+    centralAlgebraMul ρ z hz v = ρ.asAlgebraHom z v := rfl
```
Comment (Yu-Misaka) [inline Mathlib/RepresentationTheory/Intertwining.lean]: I hope this is not a defeq abuse... am I right?

File: Mathlib/RepresentationTheory/Intertwining.lean (hunk 3 above)
Comment (Yu-Misaka) [reply Mathlib/RepresentationTheory/Intertwining.lean]: > noncomputable def blah : Submonoid.center A[G] →* ρ.IntertwiningMap ρ where

btw should I tag this definition with `simps`?

File: Mathlib/RepresentationTheory/Intertwining.lean (hunk 4 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Intertwining.lean]: I think it's fine as an explicit variable if you have a good reason in your application

File: Mathlib/RepresentationTheory/Intertwining.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Intertwining.lean]: this is fine

File: Mathlib/RepresentationTheory/Intertwining.lean (hunk 4 above)
Comment (Yu-Misaka) [reply Mathlib/RepresentationTheory/Intertwining.lean]: Humm... I think I don't have a reason for an explicit use. I'll make it implicit then. Thanks!

File: Mathlib/RepresentationTheory/Intertwining.lean (hunk 3 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Intertwining.lean]: depends on if the `@[simps]` tag generates what you want, you should do `@[simps?]` to check

Comment (Yu-Misaka) [reply Mathlib/RepresentationTheory/Intertwining.lean]: Thanks! It yields
```lean
/--
info: Representation.IntertwiningMap.centralAlgebraMulHom_apply.{u_1, u_2, u_3} {A : Type u_1} {G : Type u_2} {V : Type u_3}
  [CommSemiring A] [Monoid G] [AddCommMonoid V] [Module A V] (ρ : Representation A G V) (z : ↥(Submonoid.center A[G])) :
  (centralAlgebraMulHom ρ) z = centralAlgebraMul ρ ⋯
-/
#guard_msgs in
#check centralAlgebraMulHom_apply
```
which I think is fine, so I kept it.

(also, I added the doc back as the linter will fail otherwise. Happy to change the doc if it needs improvement.)

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
